### PR TITLE
An extension for the theory of intervals - part 2

### PR DESCRIPTION
**Pull request by pi8027**
As I planned and said in #269, I have changed, added, and simplified some definitions and lemmas on intervals.v. Some changes would be incompatible with old ones.
- The `eqType` instance of intervals has been added. This instance was required to formulate new lemmas: `le_boundl_anti` and `le_boundr_anti`.
- Inequations in the definitions of `pred_of_itv` and `itv_decompose` have been factored out by using lersif.
- `itv_rewrite` and `itvP` are extended with additional equations.
- `itv_intersection` has been added and is a function taking two intervals and computing an intersection of them.

A ChangeLog entry would be needed. I will do later.

### CODE REVIEW

**Comment by CohenCyril** [comment]
@pi8027 can you rebase?

**Comment by pi8027** [comment]
@CohenCyril I did.

File: mathcomp/algebra/interval.v [hunk 1]
```diff
@@ -575,6 +587,78 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+    end;
+    match u with
+    | u1 => exists (Interval l1 u1)
+    | u2 => exists (Interval l2 u2)
+    | u3 => exists (Interval l3 u3)
+    end
+  end;
+  rewrite !eqxx /= ?orbT; do ! split => //;
+  congr Interval; case: ifP => //= H3; try congruence; apply/eqP;
+  try (by rewrite -le_boundl_anti; apply/andP; split) ||
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: `try` -> `do 1?`

File: mathcomp/algebra/interval.v [hunk 2]
```diff
@@ -415,90 +451,90 @@ Qed.
...
 Lemma subitvP : forall (i2 i1 : interval R), subitv i1 i2 -> {subset i1 <= i2}.
 Proof.
-by move=> [[[] a2|] [[] b2|]] [[[] a1|] [[] b1|]];
-  rewrite /subitv //; case/andP=> /= ha hb x hx; rewrite ?inE;
-    rewrite ?(ler_trans ha) ?(ler_lt_trans ha) ?(ltr_le_trans ha) //;
-      rewrite ?(ler_trans _ hb) ?(ltr_le_trans _ hb) ?(ler_lt_trans _ hb) //;
-        rewrite ?(itvP hx) //.
+by move=> [[b2 l2|] [b2' u2|]] [[b1 l1|] [b1' u1|]] /andP [] /= ha hb x;
+  rewrite ?inE // => /andP [ha' hb']; apply/andP; split => //;
+  (apply/lersif_imply: (lersif_trans ha ha'); case b1, b2) ||
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: `case` -> `case:`

**Comment by pi8027** [comment]
@CohenCyril I fixed this as you requested. Could you please check this and merge today if there is no problem? I also need to fix interval.v in #270 and such the changes would be conflict with this one...

File: mathcomp/algebra/interval.v [hunk 3]
```diff
@@ -378,16 +412,14 @@ Hint Resolve le_boundr_refl : core.
 
 Lemma le_boundl_trans : transitive le_boundl.
 Proof.
-move=> [lb1 lr1 |] [lb2 lr2 |] [lb3 lr3 |] //= H H0.
-apply: {H H0} (lersif_imply _ (lersif_trans H H0)).
-by case: lb1; case: lb2; case: lb3.
+by move=> [[] lr1 |] [[] lr2 |] [[] lr3 |] H H0 //;
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: Names `H` and `H0` should not be used, please use "meaningful names".

File: mathcomp/algebra/interval.v [hunk 4]
```diff
@@ -378,16 +412,14 @@ Hint Resolve le_boundr_refl : core.
...
+   apply: {H H0} (lersif_imply _ (lersif_trans H H0)).
 Qed.
 
 Lemma le_boundr_trans : transitive le_boundr.
 Proof.
-move=> [lb1 lr1 |] [lb2 lr2 |] [lb3 lr3 |] //= H H0.
-apply: {H H0} (lersif_imply _ (lersif_trans H H0)).
-by case: lb1; case: lb2; case: lb3.
+by move=> [[] lr1 |] [[] lr2 |] [[] lr3 |] H H0 //;
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: Names `H` and `H0` should not be used, please use "meaningful names".

File: mathcomp/algebra/interval.v [hunk 5]
```diff
@@ -415,90 +451,90 @@ Qed.
...
-    by rewrite (ltr_geF, ler_gtF)]];
-  rewrite ?(bound_in_itv) /le_boundl /le_boundr //=; do ?
-    [ by rewrite (@ler_trans _ x)
-    | by rewrite 1?ltrW // (@ltr_le_trans _ x)
-    | by rewrite 1?ltrW // (@ler_lt_trans _ x) // 1?ltrW
-    | by apply: negbTE; rewrite ler_gtF // (@ler_trans _ x)
-    | by apply: negbTE; rewrite ltr_geF // (@ltr_le_trans _ x) // 1?ltrW
-    | by apply: negbTE; rewrite ltr_geF // (@ler_lt_trans _ x)].
+move=> x [[[] a|] [[] b|]] /itv_dec // [hl hu];
+  try move: (lersif_trans hl hu) => ?; rewrite /= ?inE /=;
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: use `do ?` instead of `try`.

File: mathcomp/algebra/interval.v [hunk 6]
```diff
@@ -415,90 +451,90 @@ Qed.
...
+  do ?[split | apply/andP]; try apply (ler_gtF, ltr_geF); auto.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: use `do ?` instead of `try`.
What is `auto` for? We usually do not use it as it my rely on unwanted section hypotheses and it can be unpredictable...

File: mathcomp/algebra/interval.v [hunk 7]
```diff
@@ -550,19 +565,16 @@ Lemma itv_splitU (xc : R) bc a b : xc \in Interval a b ->
...
-  case: b hxc => // bb xb hxc hyc.
-  suff /(lersif_trans hyc) : xc <= xb ?< if bb.
-    by case: bc {hyc} => //= /lersifS.
-  by case: a bb hxc {la} => [[] ?|] [] /= /itvP->.
-symmetry; apply: contraNF nla => /andP [hc _].
-case: a hxc hc => [[] xa|] hxc; rewrite /le_boundl //=.
-  by move=> /lersifW /(ltr_le_trans _) -> //; move: b hxc=> [[] ?|] /itvP->.
-by move=> /lersifW /(ler_trans _) -> //; move: b hxc=> [[] ?|] /itvP->.
+move=> hxc y; move: hxc;
+  rewrite !itv_boundlr [le_boundr]lock -{3}lock /= lersifN -lock.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: please do not use occurence numbers (`{3}` ) in final code

File: mathcomp/algebra/interval.v [hunk 8]
```diff
@@ -575,6 +587,78 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+- by move=> H H0; apply/eqP; rewrite -le_boundl_anti H H0.
+- by case/orP: (le_boundl_total l1 l2) => ->.
+- by move=> H H0; apply/eqP; rewrite -le_boundr_anti H H0.
+- by case/orP: (le_boundr_total u1 u2) => ->.
+Qed.
+
+Lemma itv_intersectionA : associative (@itv_intersection R).
+Proof.
+move => [l1 u1] [l2 u2] [l3 u3] /=; congr Interval;
+  do ! case: ifP => //=; try congruence.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: `try` -> `do ?`

File: mathcomp/algebra/interval.v [hunk 9]
```diff
@@ -575,6 +587,78 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+- by move => H H0; rewrite (le_boundl_trans H H0).
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: Names `H` and `H0` should not be used, please use "meaningful names".

File: mathcomp/algebra/interval.v [hunk 10]
```diff
@@ -575,6 +587,78 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+Canonical itv_intersection_monoid :=
+  Monoid.Law itv_intersectionA (@itv_intersection1i R) (@itv_intersectioni1 R).
+
+Canonical itv_intersection_comoid := Monoid.ComLaw itv_intersectionC.
+
+Lemma itv_intersectionE (x : R) (i1 i2 : interval R) :
+  x \in itv_intersection i1 i2 = (x \in i1) && (x \in i2).
+Proof.
+move: i1 i2 => [l1 u1] [l2 u2]; rewrite !itv_boundlr andbACA; congr andb;
+  case: ifP => H; (apply/idP/andP => [H' | [? ?]]; first split) => //.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: Names `H`  should not be used, please use "a meaningful name".

File: mathcomp/algebra/interval.v [hunk 11]
```diff
@@ -575,6 +587,78 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+Qed.
+
+Lemma itv_intersection3E (i1 i2 i3 : interval R) :
+  exists x y, pred3 i1 i2 i3 x /\ pred3 i1 i2 i3 y /\
+              itv_intersection i1 (itv_intersection i2 i3) =
+              itv_intersection x y.
+Proof.
+move: i1 i2 i3 => [l1 u1] [l2 u2] [l3 u3] => /=.
+do ! case: ifP; move => H H0 H1 H2;
+  match goal with
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: Doing a `match goal` inside a proof is not conform to ssreflect style. please can you factor this in another way (e.g. `have gen`, `wlog`, or any intermediate lemma which would explain bedder what happens)?

File: mathcomp/algebra/interval.v [hunk 12]
```diff
@@ -575,6 +587,78 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+move: i1 i2 => [l1 u1] [l2 u2]; rewrite !itv_boundlr andbACA; congr andb;
+  case: ifP => H; (apply/idP/andP => [H' | [? ?]]; first split) => //.
+- by apply le_boundl_trans with l2.
+- by move: H (le_boundl_total l1 l2) H' => ->; apply le_boundl_trans.
+- by apply le_boundr_trans with u1.
+- by move: H (le_boundr_total u1 u2) => ->; apply le_boundr_trans.
+Qed.
+
+Lemma itv_intersection3E (i1 i2 i3 : interval R) :
+  exists x y, pred3 i1 i2 i3 x /\ pred3 i1 i2 i3 y /\
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: I would rather have somehting like ``exists2 j, {subset [::j.1; j.2] [:: i1; i2; i3]} -> i1 `&` `i2` `&` i3 = j.1 `&` j.2`` or even a more general theorem like ``exists2 j, {subset [::j.1; j.2] itvs} -> \bigcap_(i <- itvsi) i = j.1 `&` j.2``.

File: mathcomp/algebra/interval.v [hunk 13]
```diff
@@ -575,6 +587,78 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+              itv_intersection i1 (itv_intersection i2 i3) =
+              itv_intersection x y.
+Proof.
+move: i1 i2 i3 => [l1 u1] [l2 u2] [l3 u3] => /=.
+do ! case: ifP; move => H H0 H1 H2;
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: Names begining with `H` should not be used, please use "meaningful names" instead.

**Comment by pi8027** [comment]
@CohenCyril Thank you for the response. I tried to fix as you requested but didn't get satisfactory results on the following lemmas. I need to do some trial and error and think that the first one can be elegantly proved if `orderType` instances for `itv_bound` are provided. So may I contribute them as another PR after we finished #270?

```
Lemma itv_intersectionE (x : R) (i1 i2 : interval R) :
  x \in itv_intersection i1 i2 = (x \in i1) && (x \in i2).

Lemma itv_intersection3E (i1 i2 i3 : interval R) :
  exists x y, pred3 i1 i2 i3 x /\ pred3 i1 i2 i3 y /\
              itv_intersection i1 (itv_intersection i2 i3) =
              itv_intersection x y.
```

File: mathcomp/algebra/interval.v [hunk 14]
```diff
@@ -575,6 +592,34 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+move=> [x x'] [y y'] /=; congr Interval; do 2 case: ifP => //=.
+- by move=> hyx hxy; apply/eqP; rewrite -le_boundl_anti hyx hxy.
+- by case/orP: (le_boundl_total x y) => ->.
+- by move=> hyx' hxy'; apply/eqP; rewrite -le_boundr_anti hyx' hxy'.
+- by case/orP: (le_boundr_total x' y') => ->.
+Qed.
+
+Lemma itv_intersectionA : associative (@itv_intersection R).
+Proof.
+move => [x x'] [y y'] [z z'] /=; congr Interval;
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: `move` and `=>` should not be separated by a space.

File: mathcomp/algebra/interval.v [hunk 15]
```diff
@@ -575,6 +592,34 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+  do !case: ifP => //=; do 1?congruence.
+- by move => hxy hyz; rewrite (le_boundl_trans hxy hyz).
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: there are still names begining with `h`

File: mathcomp/algebra/interval.v [hunk 16]
```diff
@@ -575,6 +592,34 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+- move => hxy hxz hyz _; apply/eqP; rewrite -le_boundl_anti hxz /=.
+  move: (le_boundl_total y z) (le_boundl_total x y).
+  by rewrite hxy hyz; apply le_boundl_trans.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: use `apply:` never `apply`.

File: mathcomp/algebra/interval.v [hunk 17]
```diff
@@ -575,6 +592,34 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+- by move => hxy' hxz' hyz'; rewrite (le_boundr_trans hxy' hyz') in hxz'.
+- move => hxy' hyz' _ hxz'; apply/eqP; rewrite -le_boundr_anti hxz' /=.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: use `apply:`

File: mathcomp/algebra/interval.v [hunk 18]
```diff
@@ -575,6 +592,34 @@ rewrite (@itv_splitU x true _ _ _ y); first by rewrite itv_xx inE.
...
+  move: (le_boundr_total y' z') (le_boundr_total x' y').
+  by rewrite hxy' hyz'; apply le_boundr_trans.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: use `apply:`

File: mathcomp/algebra/interval.v [hunk 19]
```diff
@@ -550,19 +569,17 @@ Lemma itv_splitU (xc : R) bc a b : xc \in Interval a b ->
...
-  symmetry; apply: contraNF nlb; rewrite /le_boundr /=.
-  case: b hxc => // bb xb hxc hyc.
-  suff /(lersif_trans hyc) : xc <= xb ?< if bb.
-    by case: bc {hyc} => //= /lersifS.
-  by case: a bb hxc {la} => [[] ?|] [] /= /itvP->.
-symmetry; apply: contraNF nla => /andP [hc _].
-case: a hxc hc => [[] xa|] hxc; rewrite /le_boundl //=.
-  by move=> /lersifW /(ltr_le_trans _) -> //; move: b hxc=> [[] ?|] /itvP->.
-by move=> /lersifW /(ler_trans _) -> //; move: b hxc=> [[] ?|] /itvP->.
+move=> hxc y; move: hxc.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v]: use meaningful names instead of `h`...
